US03988510
Preparation of (2-Methyl-3-Furyl)(2-Pyridylmethyol)Sulfide
Into a 25 ml 3 neck round bottom flask equipped with magnetic stirrer, pot thermometer, Y tube, nitrogen inlet tube, reflux condenser and heating mantle is placed a solution of 0.54 g (0.01 moles) of sodium methoxide dissolved in 3 ml absolute methanol. The reaction mass is maintained at 25°-30° C and a solution of 0.57 g (0.005 moles) of 2-methyl-3-furan thiol in 3 ml absolute methanol is added to the reaction mass. While maintaining the reaction mass at 25° C, picolyl chloride hydrochloride (0.82 g; 0.005 moles) dissolved in 2 ml absolute methanol is added to the reaction mass. The reaction being exothermic, the reaction mass warms up to 42° C and a white solid precipitate forms. The reaction mass is then allowed to cool to 25° C (with stirring) over a period of 30 minutes. The reaction is then heated to reflux (60° - 65° C) under nitrogen and reflux is continued for a period of 1 hour. The reaction mass is cooled to 25° C. After remaining at room temperature for a period of 12 hours, 10 ml of water is added to the reaction mass with stirring, causing the reaction mass to now exist in two phases; an aqueous phase and an organic phase. The pH of the reaction mixture is 5. 7 ml of n-hexane is then added to the reaction mass with stirring and transferred to a separatory funnel. The aqueous layer is separated from the organic phase and extracted with 8 ml n-hexane after first diluting the aqueous phase with another 10 ml of water. The hexane extracts are combined, washed with 7 ml of saturated sodium chloride solution, dried over anhydrous sodium sulfate, gravity filtered, then concentrated on a rotary evaporator using water-aspirator vacuum.

reactant | sodium methoxide | 0.01 moles, 0.54 g | C[O-].[Na+]
reactant | 2-methyl-3-furan thiol | 0.005 moles, 0.57 g | CC=1OC=CC1S | C5H6OS
reactant | picolyl chloride hydrochloride | 0.005 moles, 0.82 g | Cl.N1=C(C=CC=C1)CCl
reactant | water | 10 ml | O | H2O
solvent | methanol | 3 ml | CO | CH4O
solvent | methanol | 3 ml | CO | CH4O
solvent | methanol | 2 ml | CO | CH4O
solvent | n-hexane | 7 ml | CCCCCC | C6H14
product | (2-Methyl-3-Furyl)(2-Pyridylmethyol)Sulfide | CC=1OC=CC1SC(O)C1=NC=CC=C1 | C11H11NO2S
